US08247401B2
Step C: tert-butyl 3-(1-amino-2,2,2-trifluoroethyl)-5-(5-methylpyridin-2-yl)benzoate
To a solution of tert-butyl 3-(1-amino-2,2,2-trifluoroethyl)-5-bromobenzoate (1.4 g, 3.95 mmol) in dioxane (20 mL) was added bis(tri-t-butylphosphine)palladium(0) (0.06 g, 0.12 mmol). The mixture was degassed with nitrogen and bromo(5-methylpyridin-2-yl)zinc (0.5 M in THF; 23.7 mL, 11.9 mmol) was added. The mixture was heated to 70° C. After 1 h, the mixture was cooled to ambient temperature and filtered with Celite. The filtrate was concentrated to remove dioxane and saturated NaHCO3 was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→60% dichloromethane/ethyl acetate) gave the title compound (1.39 g). MS 367.1 (M+1).

reactant | tert-butyl 3-(1-amino-2,2,2-trifluoroethyl)-5-bromobenzoate | 3.95 mmol, 1.4 g | NC(C(F)(F)F)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)Br | C13H15BrF3NO2
reactant | bromo(5-methylpyridin-2-yl)zinc | 11.9 mmol, 0.5 M, 23.7 mL | Br[Zn]C1=NC=C(C=C1)C
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.12 mmol, 0.06 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-butyl 3-(1-amino-2,2,2-trifluoroethyl)-5-(5-methylpyridin-2-yl)benzoate | 1.39 g | NC(C(F)(F)F)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C | C19H21F3N2O2
